US06794397B2
6-Chloro-N-(4-fluoro-2-nitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 4-fluoro-2-nitroaniline and was obtained as a yellow solid as described in Example 1. 1H NMR (DMSO-d6): 10.97 (s, 1H), 8.94 (d, J=2.7, 1H), 8.36-8.32 (m, 1H), 8.02-7.98 (m, 1H), 7.78-7.75 (m, 1H), 7.73-7.72 (m, 1H), 7.70 (d, J=1.5, 1H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 4-fluoro-2-nitroaniline | FC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
product | 6-Chloro-N-(4-fluoro-2-nitrophenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)F)[N+](=O)[O-] | C12H7ClFN3O3
